US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide and acetyl chloride, gave N-acetyl-5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide.

reactant | 5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C14H12N2O6S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-acetyl-5-formyl-6-methoxy-3′-nitro-biphenyl-3-sulfonamide | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C16H14N2O7S
